US06008229
To a mixture of 2,6-dimethyl-3-nitrobenzyl methanesulfonate and 2,6-dimethyl-3-nitrobenzyl chloride obtained above in N,N-dimethylformamide (13 ml) was added sodium hydride (60% in oil, 335 mg) under ice-bath cooling, and the mixture was stirred for 15 minutes. To the mixture was added 8-hydroxy-2-methylquinoline (1.27 g), and the mixture was stirred for 1 hour at ambient temperature. Water was added there to, and the resulting precipitate was collected by filtration to give 8-(2,6-dimethyl-3-nitrobenzyloxy)-2-methylquinoline (2.53 g).

reactant | 2,6-dimethyl-3-nitrobenzyl methanesulfonate | CS(=O)(=O)OCC1=C(C(=CC=C1C)[N+](=O)[O-])C | C10H13NO5S
reactant | 2,6-dimethyl-3-nitrobenzyl chloride | CC1=C(CCl)C(=CC=C1[N+](=O)[O-])C | C9H10ClNO2
reactant | sodium hydride | 335 mg | [H-].[Na+]
reactant | 8-hydroxy-2-methylquinoline | 1.27 g | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
solvent | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 8-(2,6-dimethyl-3-nitrobenzyloxy)-2-methylquinoline | 2.53 g | CC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1[N+](=O)[O-])C | C19H18N2O3
